* source TPS61023_TRANS
C_C2         0 VIN  22u  TC=0,0 
X_C6         VOUT 0 CESR PARAMS: C=22u ESR=1m IC=0 X=1
X_C5         VOUT 0 CESR PARAMS: C=22u ESR=1m IC=0 X=1
X_C4         VOUT 0 CESR PARAMS: C=22u ESR=1m IC=0 X=1
X_C1         VIN 0 CESR PARAMS: C=150u ESR=0.1 IC=1N X=1
V_V1         VIN 0 3.6
X_L1         VIN SW LDCR PARAMS: L=1.1u DCR=4.55m
X_U1         VIN FB 0 SW VIN VOUT TPS61023_SCHEMATIC
C_C3         0 VIN  0.1u  TC=0,0 
R_R3         N16777525 VOUT  49.9 TC=0,0 
R_R2         0 FB  100k TC=0,0 
R_R1         FB N16777525  733k TC=0,0 
R_RLOAD         0 VOUT  {5/1} TC=0,0 
.PARAM  ss=1
